US05912258
Synthesis of 2-amino-5-piperidinopropylthio-1,3,4-thiadiazole
2-Amino-5-mercapto-1,3,4-thiadiazole (13.3 g), piperidinopropylchloridehydrochloride (18.4 g), and potassium hydroxide (11.2 g) were stirred in methanol (300 ml) overnight at room temperature. The reaction mixture was concentrated under a vacuum. The residue, with water added thereto, was extracted with ethyl acetate. The extract was dried over sodium sulfate anhydride, and then concentrated under a vacuum. The resulting solid was recrystallized from n-hexane/ethanol, thereby yielding 13.9 g of the aimed compound.

reactant | 2-Amino-5-mercapto-1,3,4-thiadiazole | 13.3 g | NC=1SC(=NN1)S | C2H3N3S2
reactant | piperidinopropylchloridehydrochloride | 18.4 g | Cl.N1(CCCCC1)CCCCl
reactant | potassium hydroxide | 11.2 g | [OH-].[K+]
solvent | methanol | 300 ml | CO | CH4O
product | 2-amino-5-piperidinopropylthio-1,3,4-thiadiazole | 13.9 g | NC=1SC(=NN1)SCCCN1CCCCC1 | C10H18N4S2
